US04584290
To a stirred mixture of triphenylphosphine (40.7 g) and zinc powder (18.5 g) in methylene chloride (250 ml) was added carbontetrabromide (45 g) at 20°-30° C. Benzhydryl 7-phenylacetamido-3-formyl-2-cephem-4-carboxylate (10 g) was added portionwise to the above reaction mixture, and the mixture was stirred for 30 minutes at room temperature. Triphenylphosphine oxide was solidified by addition of ethyl acetate to the reaction mixture and removed by filtration. The residue left by removal of the solvents was chromatographed on silica gel. The elution with chloroform containing ethyl acetate (10%) gave benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate (4.4 g).

reactant | triphenylphosphine | 40.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrabromide | 45 g | C(Br)(Br)(Br)Br | CBr4
reactant | Benzhydryl 7-phenylacetamido-3-formyl-2-cephem-4-carboxylate | 10 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H24N2O5S
reactant | Triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 18.5 g | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate | 4.4 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Br2N2O4S
